US09029374B2
A solution of tribromophosphine 1M in CH2Cl2 (0.346 mL, 0.35 mmol) at 25° C., was added dropwise to 8-(1-hydroxyethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (120 mg, 0.35 mmol) suspended in DCM (1 mL). The resulting suspension was stirred at 25° C. for 4 days. The resulting gum was triturated in ether to give a precipitate which was collected by filtration, washed with ether and dried to a constant weight to afford 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (140 mg, 82%) as a white solid, which was used without further purification. Mass Spectrum: M+H+ 409.

reactant | tribromophosphine | 1M | BrP(Br)Br | Br3P
reactant | 8-(1-hydroxyethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.35 mmol, 120 mg | OC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H22N2O5
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.35 mmol, 0.346 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 140 mg, 82% | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | InChI=1S/C18H21BrN2O4.BrH/c1-11(19)13-8-12(18(23)20(2)3)9-14-15(22)10-16(25-17(13)14)21-4-6-24-7-5-21;/h8-11H,4-7H2,1-3H3;1H
